US06867198B2
3-(5-(methoxy)methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (5-methoxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester and (6-fluoro-1H-indol-3-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | (5-methoxymethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CC(CC3=CC=CC1=C23)COC)=O | C16H17NO4
reactant | (6-fluoro-1H-indol-3-yl)acetamide | FC1=CC=C2C(=CNC2=C1)CC(=O)N | C10H9FN2O
product | 3-(5-(methoxy)methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | COCC1CN2C3=C(C=CC=C3C1)C(=C2)C=2C(NC(C2C2=CNC1=CC(=CC=C21)F)=O)=O | C25H20FN3O3
